US06169107A
To 70 ml of a methanol solution of 1.82 g (10.4 mmol) of 1-methyl-7-indolecarboxylic acid was added dropwise 3.09 g (26.0 mmol) of thionyl chloride at 0° C. The reaction mixture was refluxed for 2 hours and the solvent was then distilled off under reduced pressure. Ice water was poured onto the resulting residue and ammonium hydroxide was added to render the mixture alkaline. The mixture was extracted three times with ethyl acetate. The combined extracts were washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 1.16 g (59.0%) of methyl 1-methyl-7-indolecarboxylate.

reactant | 1-methyl-7-indolecarboxylic acid | 10.4 mmol, 1.82 g | CN1C=CC2=CC=CC(=C12)C(=O)O | C10H9NO2
reactant | thionyl chloride | 26.0 mmol, 3.09 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 70 ml | CO | CH4O
product | methyl 1-methyl-7-indolecarboxylate | 1.16 g, 59.0% | CN1C=CC2=CC=CC(=C12)C(=O)OC | C11H11NO2
